US09169254B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (436 μL, 2.92 mmol) was added to a solution of (diethoxy-phosphoryl)-acetic acid ethyl ester (633 μL, 2.43 mmol) and lithium chloride (144 mg, 3.41 mmol) in acetonitrile (20.0 mL) at 0° C., and the mixture was stirred at 0° C. for 10 minutes. A solution of 8,8,8-trifluoro-octanal (2.43 mmol) in acetonitrile (4.3 mL) was added dropwise to the reaction solution at 0° C., and the mixture was stirred for 10 minutes. Thereafter, the reaction mixture was stirred at room temperature for one hour and diluted with methyl tert-butyl ether (200 mL). The organic layer was sequentially washed with a saturated aqueous ammonium chloride solution (30 mL), H2O (30 mL) and saturated brine (30 mL), dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give (E)-10,10,10-trifluoro-dec-2-enoic acid ethyl ester as a colorless oily substance (426.6 mg, 70%).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 2.92 mmol, 436 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (diethoxy-phosphoryl)-acetic acid ethyl ester | 2.43 mmol, 633 μL | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | lithium chloride | 3.41 mmol, 144 mg | [Cl-].[Li+]
reactant | 8,8,8-trifluoro-octanal | 2.43 mmol | FC(CCCCCCC=O)(F)F | C8H13F3O
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4.3 mL | C(C)#N | C2H3N
solvent | methyl tert-butyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
product | (E)-10,10,10-trifluoro-dec-2-enoic acid ethyl ester | C(C)OC(\C=C\CCCCCCC(F)(F)F)=O | C12H19F3O2
